US07157487B2
In DMF (5 ml) were dissolved 7-fluoro-1-isoquinolinecarboxylic acid (250 mg, 1.31 mmol), methyl 4-amino-3-chlorophenylacetate (262 mg, 1.31 mmol), HOBt (catalytic amount), and DMAP (192 m g, 1.57 mmol). To the resulting solution was added EDC HCl (290 mg, 6.93 mmol), followed by stirring at room temperature for 14 hours. The reaction mixture was poured into water (20 ml). The crystals thus precipitated were collected by filtration under reduced pressure, washed with ether and then dried under reduced pressure to give methyl (3-chloro-4-((7-fluoro-1-isoquinolinylcarbonyl)amino)phenyl)acetate (250 mg, 51%) as a colorless crystalline powder.

reactant | 7-fluoro-1-isoquinolinecarboxylic acid | 1.31 mmol, 250 mg | FC1=CC=C2C=CN=C(C2=C1)C(=O)O | C10H6FNO2
reactant | methyl 4-amino-3-chlorophenylacetate | 1.31 mmol, 262 mg | NC1=C(C=C(C=C1)CC(=O)OC)Cl | C9H10ClNO2
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC HCl | 6.93 mmol, 290 mg | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
catalyst | DMAP | 1.57 mmol | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | 20 ml | O | H2O
product | methyl (3-chloro-4-((7-fluoro-1-isoquinolinylcarbonyl)amino)phenyl)acetate | 250 mg, 51% | ClC=1C=C(C=CC1NC(=O)C1=NC=CC2=CC=C(C=C12)F)CC(=O)OC | C19H14ClFN2O3
